US04018777
1,3-Diacetyl-2-[4-Isopropyl-3-Pyridyl]-5-(3-Methyl-2-Octyl)Resorcinol
A solution of 6.0 g. of 1,3-diacetyl-2-[4-isopropenyl-3-pyridyl]-5-(3-methyl-2-octyl)resorcinol in 200 ml. of ethyl acetate with 1.2 g. of 5% palladium on carbon was hydrogenated in a Parr apparatus for 11/2 hours. The solution was filtered and 1.2 g. of 5% palladium on carbon was added and the mixture was hydrogenated for 4 hours. After removal of the catalyst, the filtrate was evaporated in vacuo to yield the pure product.

reactant | 1,3-diacetyl-2-[4-isopropenyl-3-pyridyl]-5-(3-methyl-2-octyl)resorcinol | C(C)(=O)C1(O)C(C(O)(CC(=C1)C(C)C(CCCCC)C)C(C)=O)C=1C=NC=CC1C(=C)C | C27H39NO4
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3-Diacetyl-2-[4-Isopropyl-3-Pyridyl]-5-(3-Methyl-2-Octyl)Resorcinol | C(C)(=O)C1(O)C(C(O)(CC(=C1)C(C)C(CCCCC)C)C(C)=O)C=1C=NC=CC1C(C)C | C27H41NO4
